US08487108B2
The regioisomers, trans-benzyl 4-amino-3-(tosyloxy)piperidine-1-carboxylate and trans-benzyl 3-amino-4-(tosyloxy)piperidine-1-carboxylate, (274 mg, 0.678 mmol) and DIEA (177 μL, 1.5 equiv) were dissolved in methanol (8 mL) and heated to 80° C. for 20 min in a CEM Microwave reactor. The reaction mixture was concentrated and redissolved in CH2Cl2 (10 mL). (Boc)2O (150 mg, 1 equiv) was added and the mixture was stirred overnight at rt. The reaction mixture was concentrated and purified by flash chromatography (40 g silica gel column, 0-45% EtOAc in hexanes gradient) to afford (±)3-benzyl 7-tert-butyl 3,7-diazabicyclo[4.1.0]heptane-3,7-dicarboxylate (227 mg, quant). MS ESI +ve m/z 355 (M+Na).

reactant | trans-benzyl 4-amino-3-(tosyloxy)piperidine-1-carboxylate | N[C@H]1[C@@H](CN(CC1)C(=O)OCC1=CC=CC=C1)OS(=O)(=O)C1=CC=C(C)C=C1 | C20H24N2O5S
reactant | trans-benzyl 3-amino-4-(tosyloxy)piperidine-1-carboxylate | 0.678 mmol, 274 mg | N[C@@H]1CN(CC[C@H]1OS(=O)(=O)C1=CC=C(C)C=C1)C(=O)OCC1=CC=CC=C1 | C20H24N2O5S
reactant | DIEA | 177 μL, 1.5 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | (Boc)2O | 150 mg, 1 equiv | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 8 mL | CO | CH4O
product | (±)3-benzyl 7-tert-butyl 3,7-diazabicyclo[4.1.0]heptane-3,7-dicarboxylate | 227 mg | C12CN(CCC2N1C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C18H24N2O4
